US04613609
1-Heptyl-3-[3-(4-methoxyphenyl)propyl]imidazolium bromide
A mixture of 2.5 g (0.015 mole) of 1-heptyl-1H-imidazole and 3.45 g (0.015 mole) of 1-(3-bromopropyl)-4-methoxybenzene is heated at 140° C. for about 1.5 hours. Follow the progress of the reaction by thin-layer chromatography on silica gel (methanol: 1M sodium chloride, 95:5). At the completion of the reaction, the cooled reaction product is triturated thoroughly with ether and on drying, provides the title compound.

reactant | 1-heptyl-1H-imidazole | 0.015 mole, 2.5 g | C(CCCCCC)N1C=NC=C1 | C10H18N2
reactant | 1-(3-bromopropyl)-4-methoxybenzene | 0.015 mole, 3.45 g | BrCCCC1=CC=C(C=C1)OC | C10H13BrO
product | 1-Heptyl-3-[3-(4-methoxyphenyl)propyl]imidazolium bromide | [Br-].C(CCCCCC)[N+]1=CN(C=C1)CCCC1=CC=C(C=C1)OC | InChI=1S/C20H31N2O.BrH/c1-3-4-5-6-7-14-21-16-17-22(18-21)15-8-9-19-10-12-20(23-2)13-11-19;/h10-13,16-18H,3-9,14-15H2,1-2H3;1H/q+1;/p-1
